US07754744B2
Step 2: Piperidin-4-yl-quinolin-2-yl-amine dihydrochloride
A solution of 4-(quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.00 g, 3.05 mmol) in 4 M HCl in dioxane (100 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 228.6 [M+H]+.

reactant | 4-(quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.05 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C=C1 | C19H25N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-quinolin-2-yl-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC2=CC=CC=C2C=C1 | InChI=1S/C14H17N3.2ClH/c1-2-4-13-11(3-1)5-6-14(17-13)16-12-7-9-15-10-8-12;;/h1-6,12,15H,7-10H2,(H,16,17);2*1H
